US06544985B2
[2-Amino-5-(isopropyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [5-(isopropyl-methyl-amino)-2-nitro-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example C34) (2.98 g, 7.90 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as a orange oil (2.42 g, 88%).

reactant | [5-(isopropyl-methyl-amino)-2-nitro-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 7.90 mmol, 2.98 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C(C)C)C(F)(F)F)[N+](=O)[O-])=O | C16H22F3N3O4
catalyst | Pd/C | [Pd] | Pd
product | [2-Amino-5-(isopropyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C(C)C)C(F)(F)F)N)=O | C16H24F3N3O2
